US05302606
To a stirred solution of 2.0 g (9.17 mmole) 3,5-di-tertbutylbenzaldehyde in 75 ml absolute ethanol are added 1.19 g (10.1 mmole) 2-pyridylacetonitrile and 12 drops piperidine. The reaction flask is equipped with a condenser and a drying tube (using anhydrous CaSO4), and the reaction is stirred and heated. After refluxing for 8 hours, the reaction is allowed to cool to room temperature and stirred overnight for 16 hours. The solvent is removed by rotary evaporation, and the residue purified by flash chromatography on silica gel, eluting with hexane-ethyl acetate, 98:2. The colorless solid is washed with cold ether-hexane to give 2-(2-pyridyl)-3-(3,5-di-tert-butylphenyl)-2-propenenitrile, m.p. 90°-93° C.

reactant | 3,5-di-tertbutylbenzaldehyde | 9.17 mmole, 2.0 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1)C(C)(C)C | C15H22O
reactant | 2-pyridylacetonitrile | 10.1 mmole, 1.19 g | N1=C(C=CC=C1)CC#N | C7H6N2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | piperidine | 12 drops | N1CCCCC1 | C5H11N
product | 2-(2-pyridyl)-3-(3,5-di-tert-butylphenyl)-2-propenenitrile | N1=C(C=CC=C1)C(C#N)=CC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C22H26N2
